US06586630B1
(7) Synthesis of Phe-N-Me-Val-Tyr(3-NMe2)—NH2
To a solution of Fmoc-Phe-N-Me-Val-Tyr(3-NMe2)—NH2 (163 mg, 0.227 mmol) in methylene chloride (1.5 ml), diethylamine (1 ml) was added, followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: chloroform:methanol:aqueous ammonia=10:1:0.1) to give the titled compound (91.2 mg, 81%).

reactant | Fmoc-Phe-N-Me-Val-Tyr(3-NMe2)—NH2 | 0.227 mmol, 163 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC(=C(C=C1)O)N(C)C)C(=O)N)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C41H47N5O6
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | diethylamine | 1 ml | C(C)NCC | C4H11N
product | Phe-N-Me-Val-Tyr(3-NMe2)—NH2 | 91.2 mg, 81% | N[C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC(=C(C=C1)O)N(C)C)C(=O)N)C | C26H37N5O4
